US07645760B2
a) (E)-3-(2-tert-Butoxycarbonylamino-4-chlorophenyl)-acrylic acid methyl ester
(E)-3-(2-Amino-4-chlorophenyl)-acrylic acid methyl ester (Carling, Robert W.; et al. J. Med. Chem. (1993), 36(22), 3397-408) (3.3 g, 15.6 mmol) in THF (63 ml) was combined with (BOC)2O (6.8 g, 31.2 mmol) and refluxed for 4 hours. THF was evaporated and a second portion of (BOC)2O added (6.8 g, 31.2 mmol). The mixture was heated to 100° C. for 18 hours. Recrystallisation from TBME/hexanes rendered the title compound as colorless crystals (4.6 g; 94%).

reactant | (E)-3-(2-Amino-4-chlorophenyl)-acrylic acid methyl ester | 15.6 mmol, 3.3 g | COC(\C=C\C1=C(C=C(C=C1)Cl)N)=O | C10H10ClNO2
reactant | (BOC)2O | 31.2 mmol, 6.8 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | THF | 63 ml | C1CCOC1 | C4H8O
product | (E)-3-(2-tert-Butoxycarbonylamino-4-chlorophenyl)-acrylic acid methyl ester | COC(\C=C\C1=C(C=C(C=C1)Cl)NC(=O)OC(C)(C)C)=O | C15H18ClNO4
